US08809363B2
Ethyl-3-ethoxybut-2-eneoate
To a solution of ethylacetoacetate (2.7 kg, 20.74 mol) in ethanol (4 L) was added conc.H2SO4 (4 ml) at 25° C. under a nitrogen atmosphere. The mixture was heated to 50° C. before adding triethylorthoformate (3073.6 g, 20.74 mol) drop wise. The mixture was stirred at 50° C. for 16 h. The mixture was concentrated under reduced pressure to give the title compound (2.8 kg, 85%) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ 4.9 (s, 1H), 4.1 (m, 2H), 3.7 (m, 2H), 2.2 (s, 3H), 1.2 (m, 3H), 1.1 (m, 3H).

reactant | ethylacetoacetate | 20.74 mol, 2.7 kg | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | H2SO4 | 4 ml | OS(=O)(=O)O | H2O4S
reactant | triethylorthoformate | 20.74 mol, 3073.6 g | C(C)OC(OCC)OCC | C7H16O3
solvent | ethanol | 4 L | C(C)O | C2H6O
product | Ethyl-3-ethoxybut-2-eneoate | 2.8 kg, 85% | C(C)OC(C=C(C)OCC)=O | C8H14O3
